US07968573B2
To a solution of 0.50 g of 1-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-imidazol-2-yl]-2,2,2-trichloroethanone and 0.37 g of 2-amino-3,5-dibromobenzoic acid in 10 ml of acetonitrile was added 0.43 ml of triethylamine. The resulting mixture was stirred at room temperature for 1 day. Thereto 0.12 ml of methanesulfonyl chloride was added, and the mixture was stirred at room temperature for 3 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.29 g of 2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-imidazol-2-yl]-6,8-dibromo-4H-3,1-benzoxazine-4-one of the formula:

reactant | 1-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-imidazol-2-yl]-2,2,2-trichloroethanone | 0.50 g | BrC=1N=C(N(C1)C1=NC=CC=C1Cl)C(C(Cl)(Cl)Cl)=O | C10H4BrCl4N3O
reactant | 2-amino-3,5-dibromobenzoic acid | 0.37 g | NC1=C(C(=O)O)C=C(C=C1Br)Br | C7H5Br2NO2
reactant | triethylamine | 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.12 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-imidazol-2-yl]-6,8-dibromo-4H-3,1-benzoxazine-4-one | 0.29 g | BrC=1N=C(N(C1)C1=NC=CC=C1Cl)C1=NC2=C(C(O1)=O)C=C(C=C2Br)Br | C16H6Br3ClN4O2
